US05296570
B. Synthesis of 4,4'-Diaminostilbene Dihydrochloride
A portion (40.5 grams, 0.15 mole) of 4,4'-dinitrostilbene from A above, concentrated hydrochloric acid (250 milliliters) and methanol (200 milliliters) are added to a flask and maintained therein as stirred mixture. Over the next three hour period, 325 mesh powdered iron is added to the reaction mixture in one grams aliquots until a total of 22.0 grams (0.40 mole) has been added. With each added aliquot of iron, heating with vigorous hydrogen evolution occurs causing frothing of the reaction mixture. Frothing is moderated as needed by cooling of the flask on a sodium chloride and ice bath between iron additions. After completion of the iron addition, the mixture is heated for 16 hours at reflux then cooled to room temperature (25° C.) and filtered. The dark brown liquid filtrate is concentrated by rotary evaporation under vacuum at 85° C. to one half original volume then decolorized by the addition of activated charcoal. After filtration, the filtrate is desalted by passing through a column of Sephadex G-50. The eluate is rotary evaporated under vacuum to provide a pale tan colored solid. Recovery of this solid followed by drying in a vacuum oven at 110° C. and 5 mm Hg provides a constant product weight of 29.4 grams. Fourier transform infrared spectrophotometric analysis of a nujol mull of the product on a sodium chloride plate confirms the product structure (disappearance of the absorbances observed for the conjugated nitro group, appearance of -NH3+ stretching absorbances at 3040, 2603 and 2550 cm-1 and appearance of a -NH3+ bending absorbance at 1497 cm-1). Proton nuclear magnetic resonance spectroscopy further confirms the product structure. Differential scanning calorimetry of a portion (3.62 milligrams) of the product under a stream of nitrogen flowing at 35 cubic centimeters per minute and using a heating rate of 10° C. per minute with a range of 200° C. to 450° C. reveals a endotherm at 263° C. (enthalpy=162.85 J/g) followed by second endotherm at 291° C. (enthalpy=337.82 J/g).

reactant | 4,4'-dinitrostilbene | 0.15 mole, 40.5 grams | [N+](=O)([O-])C1=CC=C(C=C1)C=CC1=CC=C(C=C1)[N+](=O)[O-] | C14H10N2O4
reactant | hydrochloric acid | 250 milliliters | Cl | ClH
reactant | hydrogen | [H][H] | H2
reactant | sodium chloride | [Cl-].[Na+]
catalyst | iron | [Fe] | Fe
solvent | methanol | 200 milliliters | CO | CH4O
product | 4,4'-Diaminostilbene Dihydrochloride | Cl.Cl.NC1=CC=C(C=C1)C=CC1=CC=C(C=C1)N | InChI=1S/C14H14N2.2ClH/c15-13-7-3-11(4-8-13)1-2-12-5-9-14(16)10-6-12;;/h1-10H,15-16H2;2*1H
